

.SUBCKT 7448700015 1 2 3 4
L1 4 1 1.27122123005E-06 Ipk=8.6 Rser = 0.014750000089407 Rpar =3222.084477671 Cpar = 4.951310638861E-12
L2 3 2 1.27122123005E-06 Ipk=8.6 Rser = 0.014750000089407 Rpar =3222.084477671 Cpar = 4.951310638861E-12
C1 3 4 0.000000000007693
C2 1 2 0.000000000007693
k L1 L2 0.959440559585571
.ENDS 7448700015


.SUBCKT 744870003 1 2 3 4
L1 4 1 2.80417209167E-06 Ipk=7.1 Rser = 1.89999993890524E-02 Rpar =5382.339685984 Cpar = 7.844809681588E-12
L2 3 2 2.80417209167E-06 Ipk=7.1 Rser = 1.89999993890524E-02 Rpar =5382.339685984 Cpar = 7.844809681588E-12
C1 3 4 0.00000000001087
C2 1 2 0.00000000001087
k L1 L2 0.949579831963951
.ENDS 744870003


.SUBCKT 744870004 1 2 3 4
L1 4 1 3.612400361744E-06 Ipk=3.6 Rser = 1.99999995529652E-02 Rpar =7101.347013185 Cpar = 1.0877274927613E-11
L2 3 2 3.612400361744E-06 Ipk=3.6 Rser = 1.99999995529652E-02 Rpar =7101.347013185 Cpar = 1.0877274927613E-11
C1 3 4 0.00000000001509
C2 1 2 0.00000000001509
k L1 L2 0.961492176542446
.ENDS 744870004


.SUBCKT 744870006 1 2 3 4
L1 4 1 5.692951549774E-06 Ipk=3.2 Rser = 2.57500004954636E-02 Rpar =10061.52839868 Cpar = 1.4121788277862E-11
L2 3 2 5.692951549774E-06 Ipk=3.2 Rser = 2.57500004954636E-02 Rpar =10061.52839868 Cpar = 1.4121788277862E-11
C1 3 4 0.00000000001835
C2 1 2 0.00000000001835
k L1 L2 0.978478093287351
.ENDS 744870006


.SUBCKT 744870100 1 2 3 4
L1 4 1 9.326342545728E-06 Ipk=2.7 Rser = 3.70000004768372E-02 Rpar =16815.56073978 Cpar = 9.528438992978E-12
L2 3 2 9.326342545728E-06 Ipk=2.7 Rser = 3.70000004768372E-02 Rpar =16815.56073978 Cpar = 9.528438992978E-12
C1 3 4 0.00000000001631
C2 1 2 0.00000000001631
k L1 L2 0.954787233525386
.ENDS 744870100


.SUBCKT 744870101 1 2 3 4
L1 4 1 8.374741809743E-05 Ipk=1.4 Rser = 0.217000000178814 Rpar =40646.06015403 Cpar = 3.565143913824E-11
L2 3 2 8.374741809743E-05 Ipk=1.4 Rser = 0.217000000178814 Rpar =40646.06015403 Cpar = 3.565143913824E-11
C1 3 4 0.00000000002686
C2 1 2 0.00000000002686
k L1 L2 0.951572062174784
.ENDS 744870101


.SUBCKT 744870220 1 2 3 4
L1 4 1 1.966833504973E-05 Ipk=2.45 Rser = 6.10000006854534E-02 Rpar =20416.76173605 Cpar = 2.154489116668E-11
L2 3 2 1.966833504973E-05 Ipk=2.45 Rser = 6.10000006854534E-02 Rpar =20416.76173605 Cpar = 2.154489116668E-11
C1 3 4 0.00000000002065
C2 1 2 0.00000000002065
k L1 L2 0.959947183989084
.ENDS 744870220


.SUBCKT 744870221 1 2 3 4
L1 4 1 1.847367536363E-04 Ipk=0.9 Rser = 0.452000007033348 Rpar =44970.70312592 Cpar = 4.805567458023E-11
L2 3 2 1.847367536363E-04 Ipk=0.9 Rser = 0.452000007033348 Rpar =44970.70312592 Cpar = 4.805567458023E-11
C1 3 4 0.00000000003547
C2 1 2 0.00000000003547
k L1 L2 0.961599538237512
.ENDS 744870221


.SUBCKT 744870470 1 2 3 4
L1 4 1 3.788594480847E-05 Ipk=1.45 Rser = 0.105750001966953 Rpar =32122.07459394 Cpar = 3.511039719801E-11
L2 3 2 3.788594480847E-05 Ipk=1.45 Rser = 0.105750001966953 Rpar =32122.07459394 Cpar = 3.511039719801E-11
C1 3 4 0.00000000002437
C2 1 2 0.00000000002437
k L1 L2 0.960083064394537
.ENDS 744870470


.SUBCKT 744870471 1 2 3 4
L1 4 1 4.118554999624E-04 Ipk=0.7 Rser = 0.979749977588654 Rpar =58843.19082114 Cpar = 5.091881570195E-11
L2 3 2 4.118554999624E-04 Ipk=0.7 Rser = 0.979749977588654 Rpar =58843.19082114 Cpar = 5.091881570195E-11
C1 3 4 0.00000000003974
C2 1 2 0.00000000003974
k L1 L2 0.956139379483666
.ENDS 744870471


.SUBCKT 744870680 1 2 3 4
L1 4 1 5.773600099531E-05 Ipk=1.35 Rser = 0.154500000178814 Rpar =45061.65124881 Cpar = 3.245509896857E-11
L2 3 2 5.773600099531E-05 Ipk=1.35 Rser = 0.154500000178814 Rpar =45061.65124881 Cpar = 3.245509896857E-11
C1 3 4 0.00000000002324
C2 1 2 0.00000000002324
k L1 L2 0.940892640994621
.ENDS 744870680


.SUBCKT 7448709022 1 2 3 4
L1 4 1 2.04254489984E-06 Ipk=4.1 Rser = 1.67500004172325E-02 Rpar =4571.89909972 Cpar = 4.377137093905E-12
L2 3 2 2.04254489984E-06 Ipk=4.1 Rser = 1.67500004172325E-02 Rpar =4571.89909972 Cpar = 4.377137093905E-12
C1 3 4 0.000000000015397
C2 1 2 0.000000000015397
k L1 L2 0.93166089804381
.ENDS 7448709022


.SUBCKT 7448709033 1 2 3 4
L1 4 1 2.871069399387E-06 Ipk=3.7 Rser = 0.018499999307096 Rpar =5734.002646107 Cpar = 4.826841480055E-12
L2 3 2 2.871069399387E-06 Ipk=3.7 Rser = 0.018499999307096 Rpar =5734.002646107 Cpar = 4.826841480055E-12
C1 3 4 0.000000000016758
C2 1 2 0.000000000016758
k L1 L2 0.948495190413777
.ENDS 7448709033


.SUBCKT 7448709047 1 2 3 4
L1 4 1 3.653348053149E-06 Ipk=3.6 Rser = 0.019749999511987 Rpar =7323.889458193 Cpar = 6.320129473245E-12
L2 3 2 3.653348053149E-06 Ipk=3.6 Rser = 0.019749999511987 Rpar =7323.889458193 Cpar = 6.320129473245E-12
C1 3 4 0.000000000017045
C2 1 2 0.000000000017045
k L1 L2 0.924393723985322
.ENDS 7448709047


.SUBCKT 7448709068 1 2 3 4
L1 4 1 6.044956452362E-06 Ipk=3.3 Rser = 2.27500000037253E-02 Rpar =8686.592099699 Cpar = 1.0370323770498E-11
L2 3 2 6.044956452362E-06 Ipk=3.3 Rser = 2.27500000037253E-02 Rpar =8686.592099699 Cpar = 1.0370323770498E-11
C1 3 4 0.000000000022053
C2 1 2 0.000000000022053
k L1 L2 0.957483236357168
.ENDS 7448709068


.SUBCKT 7448709100 1 2 3 4
L1 4 1 9.092163844674E-06 Ipk=3.2 Rser = 3.20000001229346E-02 Rpar =15108.50684971 Cpar = 4.809452174944E-12
L2 3 2 9.092163844674E-06 Ipk=3.2 Rser = 3.20000001229346E-02 Rpar =15108.50684971 Cpar = 4.809452174944E-12
C1 3 4 0.000000000019605
C2 1 2 0.000000000019605
k L1 L2 0.965028354684641
.ENDS 7448709100


.SUBCKT 7448709220 1 2 3 4
L1 4 1 1.867311530234E-05 Ipk=3.5 Rser = 6.35000001639128E-02 Rpar =22274.55537681 Cpar = 1.0192199908148E-11
L2 3 2 1.867311530234E-05 Ipk=3.5 Rser = 6.35000001639128E-02 Rpar =22274.55537681 Cpar = 1.0192199908148E-11
C1 3 4 0.000000000027985
C2 1 2 0.000000000027985
k L1 L2 0.970093458055336
.ENDS 7448709220


.SUBCKT 7448709330 1 2 3 4
L1 4 1 2.881007759381E-05 Ipk=2 Rser = 8.15000012516975E-02 Rpar =24284.43136206 Cpar = 2.100908036781E-11
L2 3 2 2.881007759381E-05 Ipk=2 Rser = 8.15000012516975E-02 Rpar =24284.43136206 Cpar = 2.100908036781E-11
C1 3 4 0.00000000003237
C2 1 2 0.00000000003237
k L1 L2 0.969081540939246
.ENDS 7448709330


.SUBCKT 7448709470 1 2 3 4
L1 4 1 3.947609509549E-05 Ipk=1.9 Rser = 0.106000000610948 Rpar =25379.79072803 Cpar = 3.525875980975E-11
L2 3 2 3.947609509549E-05 Ipk=1.9 Rser = 0.106000000610948 Rpar =25379.79072803 Cpar = 3.525875980975E-11
C1 3 4 0.000000000032925
C2 1 2 0.000000000032925
k L1 L2 0.970071567724498
.ENDS 7448709470


.SUBCKT 744871004 1 2 3 4
L1 4 1 3.73454586566E-06 Ipk=3 Rser = 2.17499998398125E-02 Rpar =6466.134965155 Cpar = 1.0474822618877E-11
L2 3 2 3.73454586566E-06 Ipk=3 Rser = 2.17499998398125E-02 Rpar =6466.134965155 Cpar = 1.0474822618877E-11
C1 3 4 0.000000000008435
C2 1 2 0.000000000008435
k L1 L2 0.923497267759563
.ENDS 744871004


.SUBCKT 744871006 1 2 3 4
L1 4 1 5.912058604035E-06 Ipk=2.8 Rser = 0.029250000603497 Rpar =9328.218597861 Cpar = 1.3421191062565E-11
L2 3 2 5.912058604035E-06 Ipk=2.8 Rser = 0.029250000603497 Rpar =9328.218597861 Cpar = 1.3421191062565E-11
C1 3 4 0.00000000001186
C2 1 2 0.00000000001186
k L1 L2 0.932857144336311
.ENDS 744871006


.SUBCKT 744871101 1 2 3 4
L1 4 1 7.872494041094E-05 Ipk=1.5 Rser = 0.254249997437 Rpar =68675.31663075 Cpar = 2.305282500058E-11
L2 3 2 7.872494041094E-05 Ipk=1.5 Rser = 0.254249997437 Rpar =68675.31663075 Cpar = 2.305282500058E-11
C1 3 4 0.00000000001908
C2 1 2 0.00000000001908
k L1 L2 0.933112129244154
.ENDS 744871101


.SUBCKT 744871121 1 2 3 4
L1 4 1 1.1105196158214E-04 Ipk=1.4 Rser = 0.310499995946884 Rpar =54306.65346327 Cpar = 2.523936262956E-11
L2 3 2 1.1105196158214E-04 Ipk=1.4 Rser = 0.310499995946884 Rpar =54306.65346327 Cpar = 2.523936262956E-11
C1 3 4 0.00000000002089
C2 1 2 0.00000000002089
k L1 L2 0.938142673294376
.ENDS 744871121


.SUBCKT 744871151 1 2 3 4
L1 4 1 1.315687932159E-04 Ipk=1.2 Rser = 0.386999994516373 Rpar =73779.48903859 Cpar = 2.583148004533E-11
L2 3 2 1.315687932159E-04 Ipk=1.2 Rser = 0.386999994516373 Rpar =73779.48903859 Cpar = 2.583148004533E-11
C1 3 4 0.00000000002127
C2 1 2 0.00000000002127
k L1 L2 0.94355070032694
.ENDS 744871151


.SUBCKT 744871220 1 2 3 4
L1 4 1 1.83534998017E-05 Ipk=1.85 Rser = 6.65000006556511E-02 Rpar =22638.73967817 Cpar = 1.511440936641E-11
L2 3 2 1.83534998017E-05 Ipk=1.85 Rser = 6.65000006556511E-02 Rpar =22638.73967817 Cpar = 1.511440936641E-11
C1 3 4 0.00000000001151
C2 1 2 0.00000000001151
k L1 L2 0.916852926963767
.ENDS 744871220


.SUBCKT 744871221 1 2 3 4
L1 4 1 0.00018084576967 Ipk=0.84 Rser = 0.543250001966953 Rpar =59949.17070077 Cpar = 2.232455555177E-11
L2 3 2 0.00018084576967 Ipk=0.84 Rser = 0.543250001966953 Rpar =59949.17070077 Cpar = 2.232455555177E-11
C1 3 4 0.00000000002063
C2 1 2 0.00000000002063
k L1 L2 0.925113464520109
.ENDS 744871221


.SUBCKT 744871330 1 2 3 4
L1 4 1 2.742134037793E-05 Ipk=1.2 Rser = 0.10050000064075 Rpar =37975.78013716 Cpar = 1.575831604781E-11
L2 3 2 2.742134037793E-05 Ipk=1.2 Rser = 0.10050000064075 Rpar =37975.78013716 Cpar = 1.575831604781E-11
C1 3 4 0.00000000001009
C2 1 2 0.00000000001009
k L1 L2 0.930766843975673
.ENDS 744871330


.SUBCKT 744871470 1 2 3 4
L1 4 1 3.857634631342E-05 Ipk=1.1 Rser = 0.152000002563 Rpar =34885.54369855 Cpar = 2.222568355332E-11
L2 3 2 3.857634631342E-05 Ipk=1.1 Rser = 0.152000002563 Rpar =34885.54369855 Cpar = 2.222568355332E-11
C1 3 4 0.0000000000126
C2 1 2 0.0000000000126
k L1 L2 0.925190486042731
.ENDS 744871470


.SUBCKT 744873001 1 2 3 4
L1 4 1 1.326037918037E-06 Ipk=6.25 Rser = 1.25000001862645E-02 Rpar =3179.980596959 Cpar = 3.69693462104E-12
L2 3 2 1.326037918037E-06 Ipk=6.25 Rser = 1.25000001862645E-02 Rpar =3179.980596959 Cpar = 3.69693462104E-12
C1 3 4 0.000000000011968
C2 1 2 0.000000000011968
k L1 L2 0.973492379672641
.ENDS 744873001


.SUBCKT 744873002 1 2 3 4
L1 4 1 1.918664789395E-06 Ipk=6 Rser = 1.82499997317791E-02 Rpar =4235.211415115 Cpar = 4.625030347934E-12
L2 3 2 1.918664789395E-06 Ipk=6 Rser = 1.82499997317791E-02 Rpar =4235.211415115 Cpar = 4.625030347934E-12
C1 3 4 0.000000000019521
C2 1 2 0.000000000019521
k L1 L2 0.970918155773269
.ENDS 744873002


.SUBCKT 744873003 1 2 3 4
L1 4 1 2.896370793236E-06 Ipk=5.14 Rser = 1.70000004582107E-02 Rpar =5723.951563496 Cpar = 5.152783352594E-12
L2 3 2 2.896370793236E-06 Ipk=5.14 Rser = 1.70000004582107E-02 Rpar =5723.951563496 Cpar = 5.152783352594E-12
C1 3 4 0.000000000013548
C2 1 2 0.000000000013548
k L1 L2 0.947466007467791
.ENDS 744873003


.SUBCKT 744873004 1 2 3 4
L1 4 1 4.571914179852E-06 Ipk=4.87 Rser = 2.24999999627471E-02 Rpar =8435.054138396 Cpar = 6.778913148162E-12
L2 3 2 4.571914179852E-06 Ipk=4.87 Rser = 2.24999999627471E-02 Rpar =8435.054138396 Cpar = 6.778913148162E-12
C1 3 4 0.000000000021102
C2 1 2 0.000000000021102
k L1 L2 0.949351193582894
.ENDS 744873004


.SUBCKT 744873100 1 2 3 4
L1 4 1 8.513877592868E-06 Ipk=4.2 Rser = 3.54999992996454E-02 Rpar =12583.82463009 Cpar = 1.0016172539864E-11
L2 3 2 8.513877592868E-06 Ipk=4.2 Rser = 3.54999992996454E-02 Rpar =12583.82463009 Cpar = 1.0016172539864E-11
C1 3 4 0.000000000041216
C2 1 2 0.000000000041216
k L1 L2 0.961139368819532
.ENDS 744873100


.SUBCKT 744873101 1 2 3 4
L1 4 1 8.27768210747E-05 Ipk=1.38 Rser = 0.232749998569489 Rpar =72334.68788369 Cpar = 1.409239864408E-11
L2 3 2 8.27768210747E-05 Ipk=1.38 Rser = 0.232749998569489 Rpar =72334.68788369 Cpar = 1.409239864408E-11
C1 3 4 0.000000000110259
C2 1 2 0.000000000110259
k L1 L2 0.98291435820526
.ENDS 744873101


.SUBCKT 744873150 1 2 3 4
L1 4 1 1.343905101848E-05 Ipk=3.3 Rser = 4.42500002682209E-02 Rpar =18573.85180638 Cpar = 1.0657424319299E-11
L2 3 2 1.343905101848E-05 Ipk=3.3 Rser = 4.42500002682209E-02 Rpar =18573.85180638 Cpar = 1.0657424319299E-11
C1 3 4 0.000000000044002
C2 1 2 0.000000000044002
k L1 L2 0.971622221204837
.ENDS 744873150


.SUBCKT 744873330 1 2 3 4
L1 4 1 0.000029765153975 Ipk=2.25 Rser = 9.27499998360872E-02 Rpar =33295.18594266 Cpar = 1.3158260549498E-11
L2 3 2 0.000029765153975 Ipk=2.25 Rser = 9.27499998360872E-02 Rpar =33295.18594266 Cpar = 1.3158260549498E-11
C1 3 4 0.000000000096042
C2 1 2 0.000000000096042
k L1 L2 0.991448267910977
.ENDS 744873330


.SUBCKT 744873470 1 2 3 4
L1 4 1 3.930147682288E-05 Ipk=2.02 Rser = 0.105999998748302 Rpar =34850.99124481 Cpar = 1.2284197732004E-11
L2 3 2 3.930147682288E-05 Ipk=2.02 Rser = 0.105999998748302 Rpar =34850.99124481 Cpar = 1.2284197732004E-11
C1 3 4 0.000000000085902
C2 1 2 0.000000000085902
k L1 L2 0.98720524709673
.ENDS 744873470


.SUBCKT 744873680 1 2 3 4
L1 4 1 5.518804013847E-05 Ipk=1.66 Rser = 0.163499999791384 Rpar =76318.8455852 Cpar = 1.228415302188E-11
L2 3 2 5.518804013847E-05 Ipk=1.66 Rser = 0.163499999791384 Rpar =76318.8455852 Cpar = 1.228415302188E-11
C1 3 4 0.000000000078195
C2 1 2 0.000000000078195
k L1 L2 0.970331864576172
.ENDS 744873680


.SUBCKT 744874001 1 2 3 4
L1 4 1 1.480304877396E-06 Ipk=5.85 Rser = 1.25750000588596E-02 Rpar =3588.593577704 Cpar = 3.43458631932E-12
L2 3 2 1.480304877396E-06 Ipk=5.85 Rser = 1.25750000588596E-02 Rpar =3588.593577704 Cpar = 3.43458631932E-12
C1 3 4 0.00000000001433
C2 1 2 0.00000000001433
k L1 L2 0.967824967992805
.ENDS 744874001


.SUBCKT 744874002 1 2 3 4
L1 4 1 1.983532843425E-06 Ipk=5.5 Rser = 1.60000002942979E-02 Rpar =4371.841321223 Cpar = 4.538141294918E-12
L2 3 2 1.983532843425E-06 Ipk=5.5 Rser = 1.60000002942979E-02 Rpar =4371.841321223 Cpar = 4.538141294918E-12
C1 3 4 0.000000000012942
C2 1 2 0.000000000012942
k L1 L2 0.967543859162966
.ENDS 744874002


.SUBCKT 744874003 1 2 3 4
L1 4 1 2.658542862975E-06 Ipk=4.91 Rser = 0.017750000115484 Rpar =5182.94430527 Cpar = 5.459005654292E-12
L2 3 2 2.658542862975E-06 Ipk=4.91 Rser = 0.017750000115484 Rpar =5182.94430527 Cpar = 5.459005654292E-12
C1 3 4 0.000000000018867
C2 1 2 0.000000000018867
k L1 L2 0.977743431537725
.ENDS 744874003


.SUBCKT 744874004 1 2 3 4
L1 4 1 3.577820387445E-06 Ipk=4.22 Rser = 2.14999997988343E-02 Rpar =7252.217154838 Cpar = 4.787769338256E-12
L2 3 2 3.577820387445E-06 Ipk=4.22 Rser = 2.14999997988343E-02 Rpar =7252.217154838 Cpar = 4.787769338256E-12
C1 3 4 0.000000000020012
C2 1 2 0.000000000020012
k L1 L2 0.971647687479421
.ENDS 744874004


.SUBCKT 744874006 1 2 3 4
L1 4 1 5.819272506529E-06 Ipk=3.9 Rser = 2.85000000149012E-02 Rpar =10116.401455619 Cpar = 6.030296345694E-12
L2 3 2 5.819272506529E-06 Ipk=3.9 Rser = 2.85000000149012E-02 Rpar =10116.401455619 Cpar = 6.030296345694E-12
C1 3 4 0.000000000025762
C2 1 2 0.000000000025762
k L1 L2 0.967054814110566
.ENDS 744874006


.SUBCKT 744874101 1 2 3 4
L1 4 1 8.329460529805E-05 Ipk=1.2 Rser = 0.261249996721745 Rpar =72707.1601373 Cpar = 8.140489777278E-12
L2 3 2 8.329460529805E-05 Ipk=1.2 Rser = 0.261249996721745 Rpar =72707.1601373 Cpar = 8.140489777278E-12
C1 3 4 0.000000000116482
C2 1 2 0.000000000116482
k L1 L2 0.989836155124135
.ENDS 744874101


.SUBCKT 744874220 1 2 3 4
L1 4 1 1.875592922927E-05 Ipk=2.47 Rser = 6.82500004768372E-02 Rpar =32689.83553238 Cpar = 6.433632078578E-12
L2 3 2 1.875592922927E-05 Ipk=2.47 Rser = 6.82500004768372E-02 Rpar =32689.83553238 Cpar = 6.433632078578E-12
C1 3 4 0.000000000051575
C2 1 2 0.000000000051575
k L1 L2 0.983396296444086
.ENDS 744874220


.SUBCKT 744874470 1 2 3 4
L1 4 1 3.879437797437E-05 Ipk=1.8 Rser = 0.127999998629093 Rpar =48834.09303325 Cpar = 6.610644800184E-12
L2 3 2 3.879437797437E-05 Ipk=1.8 Rser = 0.127999998629093 Rpar =48834.09303325 Cpar = 6.610644800184E-12
C1 3 4 0.000000000030316
C2 1 2 0.000000000030316
k L1 L2 0.941562519798931
.ENDS 744874470


.SUBCKT 744877001 1 2 3 4
L1 4 1 1.483081091204E-06 Ipk=4.7 Rser = 0.02625000057742 Rpar =3735.482360635 Cpar = 4.157668652089E-12
L2 3 2 1.483081091204E-06 Ipk=4.7 Rser = 0.02625000057742 Rpar =3735.482360635 Cpar = 4.157668652089E-12
C1 3 4 0.00000000000494
C2 1 2 0.00000000000494
k L1 L2 0.968553458367985
.ENDS 744877001


.SUBCKT 744877002 1 2 3 4
L1 4 1 2.031508130452E-06 Ipk=4.2 Rser = 3.05000012740493E-02 Rpar =4399.661140784 Cpar = 5.306931952009E-12
L2 3 2 2.031508130452E-06 Ipk=4.2 Rser = 3.05000012740493E-02 Rpar =4399.661140784 Cpar = 5.306931952009E-12
C1 3 4 0.00000000000635
C2 1 2 0.00000000000635
k L1 L2 0.912499999006589
.ENDS 744877002


.SUBCKT 744877003 1 2 3 4
L1 4 1 3.24681399793E-06 Ipk=3.7 Rser = 4.17499989271164E-02 Rpar =6729.932531648 Cpar = 6.276574117184E-12
L2 3 2 3.24681399793E-06 Ipk=3.7 Rser = 4.17499989271164E-02 Rpar =6729.932531648 Cpar = 6.276574117184E-12
C1 3 4 0.00000000000775
C2 1 2 0.00000000000775
k L1 L2 0.955801103257612
.ENDS 744877003


.SUBCKT 744877004 1 2 3 4
L1 4 1 3.800255270261E-06 Ipk=1.55 Rser = 4.62500005960464E-02 Rpar =7330.545982911 Cpar = 6.625178973507E-12
L2 3 2 3.800255270261E-06 Ipk=1.55 Rser = 4.62500005960464E-02 Rpar =7330.545982911 Cpar = 6.625178973507E-12
C1 3 4 0.00000000000675
C2 1 2 0.00000000000675
k L1 L2 0.935267854600727
.ENDS 744877004


.SUBCKT 744877004A 1 2 3 4
L1 4 1 3.667592046042E-06 Ipk=1.55 Rser = 4.75000012665987E-02 Rpar =7531.460755888 Cpar = 6.182532980013E-12
L2 3 2 3.667592046042E-06 Ipk=1.55 Rser = 4.75000012665987E-02 Rpar =7531.460755888 Cpar = 6.182532980013E-12
C1 3 4 0.00000000000627
C2 1 2 0.00000000000627
k L1 L2 0.933025402249583
.ENDS 744877004A


.SUBCKT 744877005 1 2 3 4
L1 4 1 4.815919780821E-06 Ipk=1.9 Rser = 6.64999997243285E-02 Rpar =9678.501698923 Cpar = 5.246342504626E-12
L2 3 2 4.815919780821E-06 Ipk=1.9 Rser = 6.64999997243285E-02 Rpar =9678.501698923 Cpar = 5.246342504626E-12
C1 3 4 0.000000000006645
C2 1 2 0.000000000006645
k L1 L2 0.938125567833223
.ENDS 744877005


.SUBCKT 744877006 1 2 3 4
L1 4 1 6.536803658278E-06 Ipk=1.8 Rser = 7.87499994039536E-02 Rpar =11623.77221658 Cpar = 7.115754050699E-12
L2 3 2 6.536803658278E-06 Ipk=1.8 Rser = 7.87499994039536E-02 Rpar =11623.77221658 Cpar = 7.115754050699E-12
C1 3 4 7.1625E-12
C2 1 2 7.1625E-12
k L1 L2 0.946575341975852
.ENDS 744877006


.SUBCKT 744877008 1 2 3 4
L1 4 1 7.874363281789E-06 Ipk=1.7 Rser = 8.32500010728836E-02 Rpar =12142.64744534 Cpar = 7.866482393082E-12
L2 3 2 7.874363281789E-06 Ipk=1.7 Rser = 8.32500010728836E-02 Rpar =12142.64744534 Cpar = 7.866482393082E-12
C1 3 4 0.0000000000082
C2 1 2 0.0000000000082
k L1 L2 0.960045662954863
.ENDS 744877008


.SUBCKT 744877100 1 2 3 4
L1 4 1 8.504394301672E-06 Ipk=1.1 Rser = 8.99999998509884E-02 Rpar =11554.12199734 Cpar = 1.0971494144547E-11
L2 3 2 8.504394301672E-06 Ipk=1.1 Rser = 8.99999998509884E-02 Rpar =11554.12199734 Cpar = 1.0971494144547E-11
C1 3 4 0.000000000008415
C2 1 2 0.000000000008415
k L1 L2 0.947530863334485
.ENDS 744877100


.SUBCKT 744877101 1 2 3 4
L1 4 1 8.900392736262E-05 Ipk=0.65 Rser = 0.901500016450882 Rpar =60156.7589142 Cpar = 1.666620330062E-11
L2 3 2 8.900392736262E-05 Ipk=0.65 Rser = 0.901500016450882 Rpar =60156.7589142 Cpar = 1.666620330062E-11
C1 3 4 0.00000000001317
C2 1 2 0.00000000001317
k L1 L2 0.957361554101469
.ENDS 744877101


.SUBCKT 744877220 1 2 3 4
L1 4 1 1.93530956566778E-05 Ipk=0.8 Rser = 0.190500002354383 Rpar =20724.9180642 Cpar = 1.28132294158889E-11
L2 3 2 1.93530956566778E-05 Ipk=0.8 Rser = 0.190500002354383 Rpar =20724.9180642 Cpar = 1.28132294158889E-11
C1 3 4 0.00000000001037
C2 1 2 0.00000000001037
k L1 L2 0.956810631447276
.ENDS 744877220


.SUBCKT 744877220 1 2 3 4
L1 4 1 1.92122065786E-05 Ipk=0.8 Rser = 0.190500002354383 Rpar =22461.8486926 Cpar = 1.09870677065E-11
L2 3 2 1.92122065786E-05 Ipk=0.8 Rser = 0.190500002354383 Rpar =22461.8486926 Cpar = 1.09870677065E-11
C1 3 4 0.00000000001037
C2 1 2 0.00000000001037
k L1 L2 0.956810631447276
.ENDS 744877220


.SUBCKT 744877330 1 2 3 4
L1 4 1 3.058837073111E-05 Ipk=0.7 Rser = 0.338250003755093 Rpar =30858.1675609 Cpar = 1.1079332484208E-11
L2 3 2 3.058837073111E-05 Ipk=0.7 Rser = 0.338250003755093 Rpar =30858.1675609 Cpar = 1.1079332484208E-11
C1 3 4 0.000000000009715
C2 1 2 0.000000000009715
k L1 L2 0.934893489056838
.ENDS 744877330


.SUBCKT 744878001 1 2 3 4
L1 4 1 1.135025179597E-06 Ipk=4.4 Rser = 2.67499997280538E-02 Rpar =3052.234844177 Cpar = 4.69655033783E-12
L2 3 2 1.135025179597E-06 Ipk=4.4 Rser = 2.67499997280538E-02 Rpar =3052.234844177 Cpar = 4.69655033783E-12
C1 3 4 4.1875E-12
C2 1 2 4.1875E-12
k L1 L2 0.960317459801232
.ENDS 744878001


.SUBCKT 744878002 1 2 3 4
L1 4 1 2.14408628271E-06 Ipk=3.6 Rser = 4.05000001192093E-02 Rpar =5302.644154298 Cpar = 4.396748958066E-12
L2 3 2 2.14408628271E-06 Ipk=3.6 Rser = 4.05000001192093E-02 Rpar =5302.644154298 Cpar = 4.396748958066E-12
C1 3 4 4.9625E-12
C2 1 2 4.9625E-12
k L1 L2 0.941544882014607
.ENDS 744878002


.SUBCKT 744878003 1 2 3 4
L1 4 1 2.829370009363E-06 Ipk=3.3 Rser = 4.55000000074506E-02 Rpar =6277.400426277 Cpar = 4.327343439359E-12
L2 3 2 2.829370009363E-06 Ipk=3.3 Rser = 4.55000000074506E-02 Rpar =6277.400426277 Cpar = 4.327343439359E-12
C1 3 4 0.00000000000413
C2 1 2 0.00000000000413
k L1 L2 0.94551281906777
.ENDS 744878003


.SUBCKT 744878004 1 2 3 4
L1 4 1 3.923743823943E-06 Ipk=1.3 Rser = 6.32500005885959E-02 Rpar =8272.09663569 Cpar = 5.400933342016E-12
L2 3 2 3.923743823943E-06 Ipk=1.3 Rser = 6.32500005885959E-02 Rpar =8272.09663569 Cpar = 5.400933342016E-12
C1 3 4 0.00000000000492
C2 1 2 0.00000000000492
k L1 L2 0.908994710922295
.ENDS 744878004


.SUBCKT 744878005 1 2 3 4
L1 4 1 5.336219581368E-06 Ipk=1.5 Rser = 8.37500002235174E-02 Rpar =9428.694075054 Cpar = 6.074558702798E-12
L2 3 2 5.336219581368E-06 Ipk=1.5 Rser = 8.37500002235174E-02 Rpar =9428.694075054 Cpar = 6.074558702798E-12
C1 3 4 0.00000000000453
C2 1 2 0.00000000000453
k L1 L2 0.919672132166314
.ENDS 744878005


.SUBCKT 744878006 1 2 3 4
L1 4 1 6.117137346139E-06 Ipk=1.4 Rser = 8.95000025629997E-02 Rpar =11220.88323414 Cpar = 6.088135735101E-12
L2 3 2 6.117137346139E-06 Ipk=1.4 Rser = 8.95000025629997E-02 Rpar =11220.88323414 Cpar = 6.088135735101E-12
C1 3 4 0.00000000000495
C2 1 2 0.00000000000495
k L1 L2 0.921795797899602
.ENDS 744878006


.SUBCKT 744878008 1 2 3 4
L1 4 1 6.925907479861E-06 Ipk=1.3 Rser = 0.103250002488494 Rpar =11772.616750928 Cpar = 6.316033400206E-12
L2 3 2 6.925907479861E-06 Ipk=1.3 Rser = 0.103250002488494 Rpar =11772.616750928 Cpar = 6.316033400206E-12
C1 3 4 0.000000000005305
C2 1 2 0.000000000005305
k L1 L2 0.915596330074557
.ENDS 744878008


.SUBCKT 744878100 1 2 3 4
L1 4 1 8.442790496906E-06 Ipk=1 Rser = 0.127750001847744 Rpar =14085.14549534 Cpar = 5.803172523208E-12
L2 3 2 8.442790496906E-06 Ipk=1 Rser = 0.127750001847744 Rpar =14085.14549534 Cpar = 5.803172523208E-12
C1 3 4 0.00000000000535
C2 1 2 0.00000000000535
k L1 L2 0.922675024972665
.ENDS 744878100


.SUBCKT 744878101 1 2 3 4
L1 4 1 8.702321671935E-05 Ipk=0.3 Rser = 1.16899999976158 Rpar =63426.1945521 Cpar = 1.0419700222087E-11
L2 3 2 8.702321671935E-05 Ipk=0.3 Rser = 1.16899999976158 Rpar =63426.1945521 Cpar = 1.0419700222087E-11
C1 3 4 0.00000000000941
C2 1 2 0.00000000000941
k L1 L2 0.938248462535577
.ENDS 744878101


.SUBCKT 744878220 1 2 3 4
L1 4 1 1.867164732777E-05 Ipk=0.7 Rser = 0.244000002741814 Rpar =23974.33598126 Cpar = 7.743012783924E-12
L2 3 2 1.867164732777E-05 Ipk=0.7 Rser = 0.244000002741814 Rpar =23974.33598126 Cpar = 7.743012783924E-12
C1 3 4 0.00000000000651
C2 1 2 0.00000000000651
k L1 L2 0.918906395956803
.ENDS 744878220


.SUBCKT 744878221 1 2 3 4
L1 4 1 0.000204882929533 Ipk=0.35 Rser = 2.49775004386902 Rpar =90246.93173925 Cpar = 1.6736468533692E-11
L2 3 2 0.000204882929533 Ipk=0.35 Rser = 2.49775004386902 Rpar =90246.93173925 Cpar = 1.6736468533692E-11
C1 3 4 0.000000000012375
C2 1 2 0.000000000012375
k L1 L2 0.925925927227771
.ENDS 744878221


.SUBCKT 744878470 1 2 3 4
L1 4 1 4.344145091395E-05 Ipk=0.9 Rser = 0.569999992847443 Rpar =39039.49084463 Cpar = 9.373403111728E-12
L2 3 2 4.344145091395E-05 Ipk=0.9 Rser = 0.569999992847443 Rpar =39039.49084463 Cpar = 9.373403111728E-12
C1 3 4 0.000000000009525
C2 1 2 0.000000000009525
k L1 L2 0.944001678058741
.ENDS 744878470
